US05798364
A mixture of 2.96 g of 1-p-aminobenzyl-2-butyl-4,5-dihydro-4-oxo-1H-imidazo [4,5-c ]pyridine, 3 ml of triethylamine, 0.5 g of 4-dimethylaminopyridine and 120 ml of CH2Cl2 is cooled to 5° and a solution of 2.88 g of o-trifluoromethanesulphonamidobenzoyl chloride in 20 ml of CH2Cl2 is added dropwise. The mixture is stirred at 20° for a further 16 hours, evaporated and worked up in conventional manner to give 2-butyl-4-oxo-1-[4-(2-trifluoromethanesulphonamidobenzamido)benzyl]-4,5-dihydro-1H-imidazo[4,5-c]pyridine.

reactant | 1-p-aminobenzyl-2-butyl-4,5-dihydro-4-oxo-1H-imidazo [4,5-c ]pyridine | 2.96 g | NC1=CC=C(CN2C(=NC=3C(NC=CC32)=O)CCCC)C=C1 | C17H20N4O
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | o-trifluoromethanesulphonamidobenzoyl chloride | 2.88 g | FC(S(=O)(=O)NC1=C(C(=O)Cl)C=CC=C1)(F)F | C8H5ClF3NO3S
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
product | 2-butyl-4-oxo-1-[4-(2-trifluoromethanesulphonamidobenzamido)benzyl]-4,5-dihydro-1H-imidazo[4,5-c]pyridine | C(CCC)C=1N(C2=C(C(NC=C2)=O)N1)CC1=CC=C(C=C1)NC(C1=C(C=CC=C1)NS(=O)(=O)C(F)(F)F)=O | C25H24F3N5O4S
